US06018056
Preparation of 6-Methoxy-2-(4-Methoxyphenyl)-3-[4-[2-(1-Piperidinyl)ethoxy]phenyl]benzo[b]thiophene-3-Methanimine
To 4-[2-(1-piperidinyl)ethoxy]bromobenzene (114.5 mg, 0.357 mmol) in tetrahydrofuran (2 ml) at -78° C. is added secbutyl lithium (0.275 ml of a 1.3 M solution, 0.358 mmol). The resulting solution is stirred at that temperature for 30 minutes, then a solution of 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carbonitrile (98.5 mg, 0.333 mmol) in tetrahydrofuran (1 ml) is added. The resulting mixture is stirred and allowed to warm to room temperature overnight. The reaction is then quenched by addition of saturated aqueous ammonium chloride (2 ml) and partitioned between methylene chloride and water. The layers are separated, and the aqueous layer extracted again with methylene chloride. The organic layers are combined, dried over magnesium sulfate, filtered and concentrated to an oil, which is chromatographed on silica gel (95:5:0.2 dichloromethane:methanol:triethylamine) to afford a fraction containing desired product. This fraction is concentrated and further chromatographed on silica gel (10:5:1 hexanes:dichloromethane:triethylamine) to afford, after drying in vacuo, 78.6 mg (47%) of title compound as an oil. IR (KBr) 2933, 1607, 1501, 1249, 1032 cm-1 ; 1H NMR (CDCl3): δ7.71 (d, 2 H, J=8.4 Hz), 7.42 (d, 2 H, J=8.7 Hz), 7.26 (m, 2 H), 6.90 (dd, 1 H, J=8.9, 2.2 Hz), 6.80 (m, 4 H), 4.10 (t, 2 H, J=6.0 Hz), 3.87 (s, 3 H), 3.76 (s, 3 H), 22.76 (t, 2 H, J=6.0 Hz), 2.50 (m, 4 H), 1.58 (m, 4 H), 1.44 (m, 2 H); 13C NMR (CDCl3): d 173.4, 161.4, 159.6, 157.7, 139.9, 138.5, 134.0, 131.1, 130.5, 129.9, 129.7, 125.9, 123.8, 114.7, 114.5, 114.2, 104.8, 66.2, 57.9, 55.7, 55.3, 55.1, 26.0, 24.3. Anal. Calcd. for C30H32N2O3S: C, 71.97; H, 6.44; N, 5.60; S, 6.40. Found: C, 71.73; H, 6.36; N, 5.41; S, 6.27.

reactant | 4-[2-(1-piperidinyl)ethoxy]bromobenzene | 0.357 mmol, 114.5 mg | N1(CCCCC1)CCOC1=CC=C(C=C1)Br | C13H18BrNO
reactant | secbutyl lithium | C(C)(CC)[Li]
reactant | 6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carbonitrile | 0.333 mmol, 98.5 mg | COC=1C=CC2=C(SC(=C2C#N)C2=CC=C(C=C2)OC)C1 | C17H13NO2S
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 6-Methoxy-2-(4-Methoxyphenyl)-3-[4-[2-(1-Piperidinyl)ethoxy]phenyl]benzo[b]thiophene-3-Methanimine | COC=1C=CC2=C(SC(C2(C=N)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)OC)C1 | C30H34N2O3S
